US04906640
EXAMPLE 2 7-benzyl-3-[(thien-2-yl)-sulfonyl]-9,9-dimethyl-3,7-diazabicyclo[3,3,1]nonane
A solution of 2.87 g (=0.015 mol) thiophene-2-sulfonyl chloride in 20 ml dichloromethane was added dropwise with ice cooling to a solution of 3.5 g (=0.014 mol) 7-benzyl-9,9-dimethyl-3,7-diazabicyclo[3,3,1]nonane (=substance No. C8 in the following Table C) in 40 ml dichloromethane. Then the ice bath was removed and the reaction mixture stirred further for 3 hours at room temperature. The reaction mixture was then made alkaline by adding aqueous sodium hydroxide solution, the aqueous phase was separated and extracted twice with dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and the solvent was evaporated. 4.0 g of the title compound (base) were thereby obtained as an oil.

reactant | thiophene-2-sulfonyl chloride | 0.015 mol, 2.87 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | 7-benzyl-9,9-dimethyl-3,7-diazabicyclo[3,3,1]nonane | 0.014 mol, 3.5 g | C(C1=CC=CC=C1)N1CC2CNCC(C1)C2(C)C | C16H24N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 7-benzyl-3-[(thien-2-yl)-sulfonyl]-9,9-dimethyl-3,7-diazabicyclo[3,3,1]nonane | 4.0 g | C(C1=CC=CC=C1)N1CC2CN(CC(C1)C2(C)C)S(=O)(=O)C=2SC=CC2 | C20H26N2O2S2
